US04044015
5-(2,4-dichlorobenzyl)pyrrolo[1,2-a]quinoxalinium chloride;
2-(4-chlorobenzyl)pyrrolo[1,2-a]pyrazinium chloride; 1-(4-chlorobenzyl)pyrazolo[1,5-a]pyridinium bromide; 1-(2,4-dichlorobenzyl)-1H-imidazo[2,1-a]isoquinolinium chloride; 1-(4-chlorobenzyl)-1H-imidazo[2,1-a]isoquinolinium bromide; and 2-(4-chlorobenzyl)imidazo[5,1-a]isoquinolinium bromide.

reactant | 2-(4-chlorobenzyl)pyrrolo[1,2-a]pyrazinium chloride | [Cl-].ClC1=CC=C(C[N+]2=CC=3N(C=C2)C=CC3)C=C1
reactant | 1-(4-chlorobenzyl)pyrazolo[1,5-a]pyridinium bromide | [Br-].ClC1=CC=C(C[N+]2=CC=C3N2C=CC=C3)C=C1
reactant | 2-(4-chlorobenzyl)imidazo[5,1-a]isoquinolinium bromide | [Br-].ClC1=CC=C(C[N+]2=CN3C(C4=CC=CC=C4C=C3)=C2)C=C1
product | 5-(2,4-dichlorobenzyl)pyrrolo[1,2-a]quinoxalinium chloride | [Cl-].ClC1=C(C[N+]2=CC=3N(C4=CC=CC=C24)C=CC3)C=CC(=C1)Cl | InChI=1S/C18H13Cl2N2.ClH/c19-14-8-7-13(16(20)10-14)11-21-12-15-4-3-9-22(15)18-6-2-1-5-17(18)21;/h1-10,12H,11H2;1H/q+1;/p-1
